US04859684
(a-5) A mixture of 4.2 parts of ethyl 6-(hydroxymethyl)-1-methoxy-1H-benzimidazole-2-carboxylate and 60 parts of concentrated hydrochloric acid was stirred for 1 hour at reflux temperature. The reaction mixture was concentrated and the residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 3.1 parts (79.2%) of 6-(chloromethyl)-1-methoxy-1H-benzimidazole monohydrochloride; mp. 158° C. (int. 33).

reactant | ethyl 6-(hydroxymethyl)-1-methoxy-1H-benzimidazole-2-carboxylate | OCC=1C=CC2=C(N(C(=N2)C(=O)OCC)OC)C1 | C12H14N2O4
reactant | hydrochloric acid | Cl | ClH
product | 6-(chloromethyl)-1-methoxy-1H-benzimidazole monohydrochloride | 79.2% | Cl.ClCC=1C=CC2=C(N(C=N2)OC)C1 | InChI=1S/C9H9ClN2O.ClH/c1-13-12-6-11-8-3-2-7(5-10)4-9(8)12;/h2-4,6H,5H2,1H3;1H
